US06352982B1
In methanol (15 ml) were dissolved 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol produced in Example 1-(2) (0.5 g) and 4-benzyloxyphenylacetaldehyde (0.4 g). To the solution were added acetic acid (0.1 g) and, subsequently, cyano sodium hydride (0.11 g). The mixture was stirred for 40 minutes at 60° C. The reaction mixture was diluted with ethyl acetate (60 ml), which was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to leave 2-[2-(4-benzyloxyphenyl)ethyl]amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-chloro-benzyl alcohol (0.45 g) as a colorless oily product.

reactant | 4-benzyloxyphenylacetaldehyde | 0.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC=O | C15H14O2
reactant | acetic acid | 0.1 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium hydride | 0.11 g | [H-].C(#N)[Na]
reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-benzyloxyphenyl)ethyl]amino-α-(3-tert-butoxycarbonylaminomethylphenyl)-5-chloro-benzyl alcohol | 0.45 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C34H37ClN2O4
